US04038396
A mixture of 1.25 g. of 2-amino-3-hydroxy-6-methylpyridine, 6 g. of polyphosphoric acid and 2.0 g. benzoic acid was heated at 190°-200° C. for 10 minutes. The cooled mixture was diluted with water and basified with solid sodium bicarbonate. The resulting precipitate was collected and recrystallized from ether to give 5-methyl-2-phenyloxazolo[4,5-b]pyridine, m.p. 148°-149° C.

reactant | 2-amino-3-hydroxy-6-methylpyridine | NC1=NC(=CC=C1O)C | C6H8N2O
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-methyl-2-phenyloxazolo[4,5-b]pyridine | CC1=CC=C2C(=N1)N=C(O2)C2=CC=CC=C2 | C13H10N2O
